US04000151
In the manner given in Example 1, 2-chloro-6-nitro-4-phenylquinoline is reacted at reflux with hydrazine hydrate to give 6-nitro-4-phenyl-2-hydrazinoquinoline.

reactant | 2-chloro-6-nitro-4-phenylquinoline | ClC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)[N+](=O)[O-] | C15H9ClN2O2
reactant | hydrazine hydrate | O.NN
product | 6-nitro-4-phenyl-2-hydrazinoquinoline | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)NN)C1=CC=CC=C1 | C15H12N4O2
